US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid cyclopropylamide (Compound CLXXII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid cyclopropylamide (200 mg, 0.6 mmol), 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde (162.28 mg, 0.74892 mmol), and Ammonium acetate (92.439 mg, 1.1992 mmol) were reacted to produce 26.23 mg (8%) of the title compound. (300 MHz, DMSO-d6) 12.68 (s, 1H), 8.31 (s, 1H), 7.94 (s, 1H), 6.93 (s, 1H), 6.38-6.31 (m, 2H), 4.99 (t, J=17 Hz, 8.5 Hz, 1H), 3.44 (m, 4H), 2.84 (s, 1H), 2.75 (s, 1H), 2.65 (m, 1H), 2.23 (d, J=8 Hz, 1H), 2.01 (m, 4H), 1.38 (d, J=8 Hz, 1H), 0.63 (m, 2H), 0.37 (m, 2H). MS=530 (M+H), HPLC: 2.90 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid cyclopropylamide | 0.6 mmol, 200 mg | C1(CC1)NC(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C(C(=NC=C1Cl)N)N)C2 | C16H20ClN5O
reactant | 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde | 0.74892 mmol, 162.28 mg | ClC=1N=C(SC1C=O)N1CCCC1 | C8H9ClN2OS
reactant | Ammonium acetate | 1.1992 mmol, 92.439 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid cyclopropylamide | 26.23 mg, 8% | C1(CC1)NC(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C3C(=NC=C1Cl)NC(=N3)C3=C(N=C(S3)N3CCCC3)Cl)C2 | C24H25Cl2N7OS
